US09078444B2
To a solution of 1-(4-Bromo-3-methyl-phenyl)-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-3-mercapto-butan-1-one (382 mg) in a solution of potassium hydroxide (162 mg in 8 mL of water) was added a solution of Hydroxylamine-O-sulfonic acid (2 equiv.) in a solution of potassium hydroxide (243 mg in 16 mL of water). After stirring at room temperature for 30 minutes, the mixture was diluted with ethyl acetate, and washed with brine. The collected organic phases were dried over magnesium sulfate, filtered and the filtrate was evaporated under vacuo. The residue was purified by chromatography on silica gel (eluent: cyclohexane/dichloromethane) to give 3-(4-Bromo-3-methyl-phenyl)-5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isothiazole (184 mg).

reactant | 1-(4-Bromo-3-methyl-phenyl)-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-3-mercapto-butan-1-one | 382 mg | BrC1=C(C=C(C=C1)C(CC(C(F)(F)F)(S)C1=CC(=CC(=C1)Cl)Cl)=O)C | C17H12BrCl2F3OS
reactant | potassium hydroxide | 8 mL, 162 mg | [OH-].[K+]
reactant | Hydroxylamine-O-sulfonic acid | 2 equiv. | NOS(=O)(=O)O | H3NO4S
reactant | potassium hydroxide | 16 mL, 243 mg | [OH-].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4-Bromo-3-methyl-phenyl)-5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isothiazole | 184 mg | BrC1=C(C=C(C=C1)C1=NSC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C | C17H11BrCl2F3NS
